US07569571B2
A. 4-[9-(5-Cyclopropylcarbamoyl-2-methyl-phenyl)-9H-purin-6-yl]-benzoic acid
To a solution of the 4-[9-(5-Cyclopropylcarbamoyl-2-methyl-phenyl)-9H-purin-6-yl]-benzoic acid methyl ester (65 mg, 0.87 mmol) in 2 mL of tetrahydrofuran, 2 mL of methanol and 1 mL of water was added sodium hydroxide (2M, 0.15 mL, 0.3 mmol) at 20° C. The reaction mixture was stirred at that temperature for 5 hours and then the clear solution was neutralized by dropwise addition of 2N aqueous hydrochloric acid to give a solid. The product was collected by filtration to give a colorless solid (50 mg, 80%). HPLC tR=2.01 min; MS m/z 414 [M+H]+.

reactant | 4-[9-(5-Cyclopropylcarbamoyl-2-methyl-phenyl)-9H-purin-6-yl]-benzoic acid methyl ester | 0.87 mmol, 65 mg | COC(C1=CC=C(C=C1)C1=C2N=CN(C2=NC=N1)C1=C(C=CC(=C1)C(NC1CC1)=O)C)=O | C24H21N5O3
reactant | sodium hydroxide | 0.3 mmol, 2M, 0.15 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 4-[9-(5-Cyclopropylcarbamoyl-2-methyl-phenyl)-9H-purin-6-yl]-benzoic acid | 50 mg, 80% | C1(CC1)NC(=O)C=1C=CC(=C(C1)N1C2=NC=NC(=C2N=C1)C1=CC=C(C(=O)O)C=C1)C | C23H19N5O3
